US06930120B2
2-(3-Phenyl-propionylamino)-succinic acid 4-methyl ester
Methyl L-aspartate (15.0 g, 0.082 mol), DI water (245 mL), acetone (20 mL), and Na2CO3 (30.8 g, 0.286 mol) were combined and cooled the solution to 5° C. 3-Phenyl-propionyl chloride (13.3 mL, 0.089 mol) was added dropwise via addition funnel over 10 min. The reaction was allowed to warm to ambient temperature and stir for 2 h. The reaction became very thick during this time. Added conc. HCl (50 mL) to the slurry until the pH was ≦4.0. The reaction mixture was extracted with CH2Cl2 (3×). The organic phase was washed with water and then dried (MgSO4), filtered and concentrated under reduced pressure. The clear, colorless oil was used without further purification. 1H NMR (400 MHz, CDCl3) δ 7.92 (br s, 1H), 7.28-7.17 (m, 5H), 6.57 (d, J=7.6 Hz, 1H), 4.87 (m, 1H), 3.67 (s, 3H), 2.96 (t, J=7.6 Hz, 2H), 2.89 (A of ABX, JAB=17.6 Hz, JAX=4.8 Hz, 1H), 2.88 (B of ABX, JBA=17.6 Hz, JBX=4.0 Hz, 1H), 2.69 (t, J=7.6 Hz, 2H); MS (EI+) 280 (M+H), 302 (M+H+Na).

reactant | Methyl L-aspartate | 0.082 mol, 15.0 g | N[C@@H](CC(=O)[O-])C(=O)OC
reactant | Na2CO3 | 0.286 mol, 30.8 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 3-Phenyl-propionyl chloride | 0.089 mol, 13.3 mL | C1(=CC=CC=C1)CCC(=O)Cl | C9H9ClO
reactant | HCl | 50 mL | Cl | ClH
reactant | acetone | 20 mL | CC(=O)C | C3H6O
solvent | DI water | 245 mL | O | H2O
product | 2-(3-Phenyl-propionylamino)-succinic acid 4-methyl ester | COC(CC(C(=O)O)NC(CCC1=CC=CC=C1)=O)=O | C14H17NO5
